US09301951B2
3-((3-((2-(4-((4-(tert-butyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzyl)thio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-((2-(4-((4-tert-butylbenzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)propanoate (100 mg, 0.14 mmol, 1.00 equiv) in dichloromethane (2 mL), and trifluoroacetic acid (160 mg, 1.40 mmol, 10.00 equiv). The resulting solution was stirred overnight at 25° C. in an oil bath. The resulting mixture was concentrated under vacuum. The crude product (95 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 50 mg (46%) of a white solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 9.03-9.05 (d, J=5.4 Hz, 1H), 8.80-8.83 (d, J=9.3 Hz, 1H), 8.42 (s, 1H), 8.16-8.17 (d, J=2.7 Hz, 1H), 8.00 (s, 1H), 7.90-7.90 (d, J=1.5 Hz, 1H), 7.87-7.89 (m, 2H), 7.71-7.75 (dd, J=9.02 Hz, J′=2.7 Hz, 1H), 7.60-7.62 (m, 1H), 7.50-7.55 (m, 1H), 7.40-7.42 (m, 2H), 7.31-7.39 (m, 2H), 4.61 (s, 2H), 3.91 (s, 2H), 3.70-3.73 (m, 4H), 2.70 (m, 2H), 2.56-2.51 (m, 2H), 2.06-2.09 (m, 4H), 1.84-1.86 (m, 1H), 1.32-1.33 (m, 9H). MS (ES, m/z): 665 [M+H]+.

reactant | tert-butyl 3-(3-((2-(4-((4-tert-butylbenzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)propanoate | 0.14 mmol, 100 mg, 1.00 equiv | C(C)(C)(C)C1=CC=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=C1 | C43H52N4O4S
reactant | trifluoroacetic acid | 1.40 mmol, 160 mg, 10.00 equiv | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-((3-((2-(4-((4-(tert-butyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzyl)thio)propanoic acid | 50 mg, 46% | C(C)(C)(C)C1=CC=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CSCCC(=O)O)C=CC2)C=C1 | C39H44N4O4S
